US09445594B2
Preparation of (4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanamine (C33)
To 3-(4-(azidomethyl)phenyl)-1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazole (0.015 g, 0.037 mmol) in ethyl acetate (10 mL) was added palladium on carbon (10 wt %, 0.010 g, 0.037 mmol). The mixture was stirred under a hydrogen atmosphere (balloon) for 12 hours. The mixture was purged with nitrogen, filtered, and concentrated to provide the title compound as a white solid (0.014 g, 85%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.12 (d, J=8.2 Hz, 2H), 7.80 (d, J=9.1 Hz, 2H), 7.39 (d, J=9.1 Hz, 4H), 3.87 (s, 2H), 2.42 (s, 2H); 19F NMR (376 MHz, CDCl3) δ −85.90, −87.86; ESIMS m/z 385 ([M+H]+).

reactant | 3-(4-(azidomethyl)phenyl)-1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazole | 0.037 mmol, 0.015 g | N(=[N+]=[N-])CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(C(F)(F)F)(F)F | C17H11F5N6O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.037 mmol, 0.010 g | [Pd] | Pd
product | (4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanamine | 0.014 g, 85% | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CN)F | C17H13F5N4O
